US07144888B2
8-Methoxy-quinazolin-2-ylamine. To a solution of 3-methoxy-2-nitro-benzaldehyde (14.8 g, 81 mmol, Aldrich) and NH4Cl (4.4 g, 82 mmol, Aldrich) in 80% aq. MeOH (250 mL) was added iron dust (20.5 g, 367 mmol, Aldrich) and the reaction mixture was heated at 60° C. with stirring for 2 h. The reaction mixture was allowed to cool to room temperature and filtered through a pad of Celite®. The filter cake was washed with MeOH and the solution was concentrated in vacuum. The concentrated aq. solution was extracted with CH2Cl2 and the combined organic layers were washed with brine and dried over Na2SO4. Purification with EtOAc/Hexanes (0:1→1:4) as eluant gave 3.84 g (31%) of 2amino-3-methoxy-benzaldehyde as a yellow oil. This oil was heated at 190° C. for 2.5 h in the presence of guanidine hydrochloride (4.9 g, 51 mmol, Aldrich), Na2CO3 (5.4 g, 51 mmol) and decalin (55 mL). The reaction was decanted while hot and the solution was allowed to cool to room temperature. The resultant precipitate was stirred with hexanes, filtered, washed with hexanes, and dried in vacuum to give the title compound as a yellow amorphous solid. MS (ESI, pos ion.) m/z: 176 (M+1).

reactant | 8-Methoxy-quinazolin-2-ylamine | COC=1C=CC=C2C=NC(=NC12)N | C9H9N3O
reactant | 3-methoxy-2-nitro-benzaldehyde | 81 mmol, 14.8 g | COC=1C(=C(C=O)C=CC1)[N+](=O)[O-] | C8H7NO4
reactant | NH4Cl | 82 mmol, 4.4 g | [NH4+].[Cl-]
solvent | MeOH | 250 mL | CO | CH4O
catalyst | iron | 367 mmol, 20.5 g | [Fe] | Fe
product | 2amino-3-methoxy-benzaldehyde | 3.84 g, 31% | NC1=C(C=O)C=CC=C1OC | C8H9NO2
